US04895847
200 Grams of 6-chloroacetylaminomethyl-2,3-dihydro-7-hydroxy-4-methyl-1H-indene-1-one, 77.9 g of hydroxylamine hydrochloride, 300 ml of pyridine and 1,800 ml of ethanol were refluxed for 3 hours. After the reaction was completed, the solvent was removed by evaporation under a reduced pressure, then to the residue thus obtained was added 2 liters of water and the mixture was stirred vigorously, cooled and crystallized. The crystals were collected by filtration, washed with water, and recrystallized from water to obtain 167 g of (2,3-dihydro-7-hydroxy-1-hydroxyimino-4-methyl-1H-indene-6-yl)methylaminocarbonylmethylpyridinium chloride. Colorless flake-like crystals. Melting point: 279° C. (Decomposed).

reactant | 6-chloroacetylaminomethyl-2,3-dihydro-7-hydroxy-4-methyl-1H-indene-1-one | ClCC(=O)NCC1=CC(=C2CCC(C2=C1O)=O)C | C13H14ClNO3
reactant | hydroxylamine hydrochloride | 77.9 g | Cl.NO
reactant | pyridine | 300 ml | N1=CC=CC=C1 | C5H5N
reactant | ethanol | 1,800 ml | C(C)O | C2H6O
solvent | water | 2 liters | O | H2O
product | (2,3-dihydro-7-hydroxy-1-hydroxyimino-4-methyl-1H-indene-6-yl)methylaminocarbonylmethylpyridinium chloride | 167 g | [Cl-].OC=1C(=CC(=C2CCC(C12)=NO)C)CNC(=O)C[N+]1=CC=CC=C1 | InChI=1S/C18H19N3O3.ClH/c1-12-9-13(18(23)17-14(12)5-6-15(17)20-24)10-19-16(22)11-21-7-3-2-4-8-21;/h2-4,7-9H,5-6,10-11H2,1H3,(H2-,19,20,22,23,24);1H
